US09278950B2
Step 11. 3-{[(3-{[(Benzyloxy)carbonyl]amino}-7-ethylquinolin-2-yl)carbonyl]amino}-4-{(3S)-3-[(tert-butoxycarbonyl)amino]piperidin-1-yl}-6,7-dihydro-5H-cyclopenta[b]pyridin-7-yl acetate
A mixture of 3-amino-4-{(3S)-3-[(tert-butoxycarbonyl)amino]piperidin-1-yl}-6,7-dihydro-5H-cyclopenta[b]pyridin-7-yl acetate (6.15 mg, 0.0158 mmol), 3-{[(benzyloxy)carbonyl]amino}-7-ethylquinoline-2-carboxylic acid (4.6 mg, 0.013 mmol), HATU (12.5 mg, 0.0328 mmol), DMF (0.0305 mL) and DIPEA (5.09 mg, 0.0394 mmol) was stirred at room temperature for 1 h. The reaction mixture was filtered, concentrated under reduced pressure and purified by preparative LC MS (pH=10 method; XBridge™ preparative C18 5 μm OBD™ column, 30×10 mm, 60 mL/min., eluting with a gradient of MeCN and water with NH4OH) to give pure sub-title compound as a colorless gum (4 mg, 40%). LCMS calc. for C40H47N6O7 (M+H)+: m/z=723.4. Found: 723.3.

reactant | 3-amino-4-{(3S)-3-[(tert-butoxycarbonyl)amino]piperidin-1-yl}-6,7-dihydro-5H-cyclopenta[b]pyridin-7-yl acetate | 0.0158 mmol, 6.15 mg | C(C)(=O)OC1CCC=2C1=NC=C(C2N2C[C@H](CCC2)NC(=O)OC(C)(C)C)N | C20H30N4O4
reactant | 3-{[(benzyloxy)carbonyl]amino}-7-ethylquinoline-2-carboxylic acid | 0.013 mmol, 4.6 mg | C(C1=CC=CC=C1)OC(=O)NC=1C(=NC2=CC(=CC=C2C1)CC)C(=O)O | C20H18N2O4
reactant | HATU | 0.0328 mmol, 12.5 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.0394 mmol, 5.09 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 0.0305 mL | CN(C)C=O | C3H7NO
product | 3-{[(3-{[(Benzyloxy)carbonyl]amino}-7-ethylquinolin-2-yl)carbonyl]amino}-4-{(3S)-3-[(tert-butoxycarbonyl)amino]piperidin-1-yl}-6,7-dihydro-5H-cyclopenta[b]pyridin-7-yl acetate | 4 mg, 40% | C(C)(=O)OC1CCC=2C1=NC=C(C2N2C[C@H](CCC2)NC(=O)OC(C)(C)C)NC(=O)C2=NC1=CC(=CC=C1C=C2NC(=O)OCC2=CC=CC=C2)CC | C40H46N6O7
